US04431636
N,N'-Bis[4-[[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]urea
A mixture of 17.3 g of N,N'-bis[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]urea in 500 ml of methanol saturated with ammonia was stirred in an ice bath for 6 hours and then refrigerated overnight. The mixture was filtered through a sintered glass funnel and concentrated in vacuo to a foam. The foam was triturated with ethanol, filtered, washed with ethanol then ether and dried, giving 11.42 g of the desired intermediate.

reactant | N,N'-bis[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]urea | 17.3 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)SC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O | C65H80N2O35S2
reactant | ammonia | N | H3N
solvent | methanol | 500 ml | CO | CH4O
product | N,N'-Bis[4-[[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]urea | 11.42 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@@H](O[C@@H]1CO)SC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O1)CO)O)O | C37H52N2O21S2
